US05556864
78(a) 2-(2-{2-[4-(3-Methoxyphenyl)butyl]phenoxy}ethyl)-1-methylpyrrolidine
1.48 g of potassium t-butoxide were added to a solution of 1.35 g of 2-[4-(3-methoxyphenyl)butyl]phenol (prepared as described in Preparation 7) in 20 ml of dimethylacetamide, whilst ice-cooling and stirring. 1.45 g of 2-(2-chloroethyl)-1-methylpyrrolidine hydrochoride were then added to the solution, and the mixture was stirred at 55° C. for 2 hours. At the end of this time, the reaction mixture was cooled, 200 ml of ethyl acetate and 100 ml of water were added to the mixture, and the mixture was shaken. The ethyl acetate layer was separated, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The ethyl acetate layer was then concentrated by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 10:1 by volume mixture of methylene chloride and methanol as the eluent, to give 0.92 g (yield 48%) of the title compound as an oil.

reactant | potassium t-butoxide | 1.48 g | CC(C)([O-])C.[K+]
reactant | 2-[4-(3-methoxyphenyl)butyl]phenol | 1.35 g | COC=1C=C(C=CC1)CCCCC1=C(C=CC=C1)O | C17H20O2
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochoride | 1.45 g | Cl.ClCCC1N(CCC1)C
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 100 ml | O | H2O
product | 2-(2-{2-[4-(3-Methoxyphenyl)butyl]phenoxy}ethyl)-1-methylpyrrolidine | 0.92 g, yield 48% | COC=1C=C(C=CC1)CCCCC1=C(OCCC2N(CCC2)C)C=CC=C1 | C24H33NO2
